US06531474B1
4-Hydroxy-pyrrolidine-1,2-dicarboxylic Acid 1-Benzyl Ester 2-tert-Butyl Ester (104)
A suspension of Cbz-Hyp-OH (4.854 g, 18 mmol) in DMA (135 ml), benzyltriethylammonium chloride (4.105 g, 18 mmol), K2CO3 (64 g, 46 mmol) and 2-bromo-2-methylpropane (99 ml, 859 mmol) was stirred at 55° C. for 18 hours. The mixture was diluted with iced water and extracted with EtOAc (3×). The organic phase washed with water, 0.5N NaHSO4 solution and brine dried and the solvent in vacuo to yield the title compound as a yellow oil (5.368 g, 98% yield). 1H-NMR (500 MHz, CDCl3) δ 6 1.33 (s, 5H), 1.47 (s, 4H), 2.01-2.14 (m, 1H), 2.22-2.38 (m, 1H), 3.50-3.72 (m, 2H), 4.34-4.45 (m, 1H), 4.45-4.53 (m, 1H), 5.04-5.20 (m, 2H), 7.22-7.42 (m, 5H). Analytical HPLC 10.14 min. LC-MS (ES+) m/e=322.2 (MH+).

reactant | Cbz-Hyp-OH | 18 mmol, 4.854 g | N1([C@H](C(=O)O)C[C@@H](O)C1)C(=O)OCC1=CC=CC=C1 | C13H15NO5
reactant | K2CO3 | 46 mmol, 64 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-2-methylpropane | 859 mmol, 99 ml | BrC(C)(C)C | C4H9Br
solvent | DMA | 135 ml | CC(=O)N(C)C | C4H9NO
catalyst | benzyltriethylammonium chloride | 18 mmol, 4.105 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 4-Hydroxy-pyrrolidine-1,2-dicarboxylic Acid 1-Benzyl Ester 2-tert-Butyl Ester | 5.368 g, 98% yield | C(C)(C)(C)OC(=O)C1N(CC(C1)O)C(=O)OCC1=CC=CC=C1 | C17H23NO5
